US05409943
N-(3-(2-Chloro-4,5-methylenedioxybenzyloxy)-2-pyridyl)phenylacetamidine hydrochloride
2-Amino-3-(6-chloro-4,5-methylenedioxybenzyloxy)pyridine (6 g, 21.6 mmol) and ethyl phenylacetimidate hydrochloride (5.17 g, 26 mmol) in ethanol (150 ml) were heated under reflux for 3 hrs. The solvent was evaporated and the residue purified by flash chromatography (silica, 1% methanol/dichloromethane), trituration with ether and recrystallisation from ethanol to give the tire compound (1.0 g), m.p. 189° C. (softening 170° C.).

reactant | 2-Amino-3-(6-chloro-4,5-methylenedioxybenzyloxy)pyridine | 21.6 mmol, 6 g | NC1=NC=CC=C1OCC1=CC=C2C(=C1Cl)OCO2 | C13H11ClN2O3
reactant | ethyl phenylacetimidate hydrochloride | 26 mmol, 5.17 g | Cl.C1(=CC=CC=C1)CC(OCC)=N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N-(3-(2-Chloro-4,5-methylenedioxybenzyloxy)-2-pyridyl)phenylacetamidine hydrochloride | 1.0 g | Cl.ClC1=C(COC=2C(=NC=CC2)NC(CC2=CC=CC=C2)=N)C=C2C(=C1)OCO2 | InChI=1S/C21H18ClN3O3.ClH/c22-16-11-19-18(27-13-28-19)10-15(16)12-26-17-7-4-8-24-21(17)25-20(23)9-14-5-2-1-3-6-14;/h1-8,10-11H,9,12-13H2,(H2,23,24,25);1H
